US05013736
To a suspended solution of 3 g (0.016 mol) of 2-chloro-3-cyano-1-azaazulene in 10 ml of dimethylformamide and 50 ml of ethanol were added 6.7 g (0.048 mol) of glycine ethylester hydrochloride and 6.5 g (0.064 mol) of triethylamine. The reaction mixture was heated under reflux for 6 hours. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in chloroform, and the chloroform layer was washed with water and dried. Then, the chloroform was evaporated under reduced pressure to give 3.0 g of 3-cyano-2-ethoxycarbonylmethylamino-1-azaazulene having mp of 186° to 188° C. To a solution of obtained 3-cyano-2-ethoxycarbonylmethylamino-1-azaazulene in 100 ml of ethanol were added 5 to 6 ml of 2N aqueous solution of sodium hydroxide, and the reaction mixture was heated at 60° to 70° C. for 30 minutes. The precipitate of sodium salt of title compound was filtered, washed with ether and dried to give 2.6 g of sodium salt of title compound (yield: 65%).

reactant | 2-chloro-3-cyano-1-azaazulene | 0.016 mol, 3 g | ClC1=NC2=CC=CC=CC2=C1C#N | C10H5ClN2
reactant | glycine ethylester hydrochloride | 0.048 mol, 6.7 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 0.064 mol, 6.5 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-cyano-2-ethoxycarbonylmethylamino-1-azaazulene | 3.0 g | C(#N)C=1C(=NC2=CC=CC=CC12)NCC(=O)OCC | C14H13N3O2
